US07576108B2
b: (Z)-3-Cyclopentyl-2-(4-methanesulfonyl-thiophen-2-yl)-prop-2-en-1-ol
Add 2-bromo-4-methanesulfonyl-thiophene (241 mg, 1.0 mmol), caesium fluoride ( 304 mg, 2.0 mmol) and tetrakis-(triphenylphosphin)-palladium(0) (58 mg, 0.05 mmol) to a solution of 3-cyclopentyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol (252 mg, 1.0 mmol) in THF. Stir at 50° C. for 24 h, monitore completion of the reaction by LCMS. Treat the reaction mixture with water and extract with ethyl acetate. Dry organic layers over sodium sulfate and remove solvents under vacuum to obtain 405 mg crude product. Purify by silica gel chromatography, eluting with gradient from 9:1 to 1:1 hexane:ethyl acetate to obtain 118 mg purified product. MS (m/e): 309.0 (M+Na).

reactant | 2-bromo-4-methanesulfonyl-thiophene | 1.0 mmol, 241 mg | BrC=1SC=C(C1)S(=O)(=O)C | C5H5BrO2S2
reactant | caesium fluoride | 2.0 mmol, 304 mg | [F-].[Cs+]
reactant | 3-cyclopentyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol | 1.0 mmol, 252 mg | C1(CCCC1)C=C(CO)B1OC(C(O1)(C)C)(C)C | C14H25BO3
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
catalyst | tetrakis-(triphenylphosphin)-palladium(0) | 0.05 mmol, 58 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (Z)-3-Cyclopentyl-2-(4-methanesulfonyl-thiophen-2-yl)-prop-2-en-1-ol | C1(CCCC1)\C=C(\CO)/C=1SC=C(C1)S(=O)(=O)C | C13H18O3S2
